US07253174B2
Synthesis of 3-[5-Bromo-6-(2,2-dimethyl-propylamino)-2-methylamino-pyrimidin-4-ylamino]-4,N-dimethyl-benzamide
3-[6-(2,2-Dimethyl-propylamino)-2-methylamino-pyrimidin-4-ylamino]-4,N-dimethyl-benzamide (35 mg), aq. sat. sodium bicarbonate (0.05 mL) and bromine (21 mg) were stirred in methylene chloride (1 mL) at room temperature for overnight. The product (4 mg) was purified with preparative thin layer chromatography. MS (m/z): 435 (M+H).

reactant | 3-[6-(2,2-Dimethyl-propylamino)-2-methylamino-pyrimidin-4-ylamino]-4,N-dimethyl-benzamide | 35 mg | CC(CNC1=CC(=NC(=N1)NC)NC=1C=C(C(=O)NC)C=CC1C)(C)C | C19H28N6O
reactant | sodium bicarbonate | 0.05 mL | C([O-])(O)=O.[Na+]
reactant | bromine | 21 mg | BrBr | Br2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-[5-Bromo-6-(2,2-dimethyl-propylamino)-2-methylamino-pyrimidin-4-ylamino]-4,N-dimethyl-benzamide | BrC=1C(=NC(=NC1NCC(C)(C)C)NC)NC=1C=C(C(=O)NC)C=CC1C | C19H27BrN6O
